US04499299
a. Methyl 3-methylcinnamate
A mixture of 6.0 g (49.9 mmol) of m-tolualdehyde and 18.37 g (54.93 mmol) of methyl (triphenylphosphoranylidene)acetate in 50 ml of THF was stirred at reflux for 4 hours. The THF was evaporated and the residue was stirred with 200 ml of petroleum ether (bp=30°-60° C.) and filtered. The filtrate was evaporated to give the title compound as a light yellow liquid which was distilled bulb-to-bulb at 90° C./0.4 mm of Hg.

reactant | m-tolualdehyde | 49.9 mmol, 6.0 g | C1(=CC(=CC=C1)C=O)C | C8H8O
reactant | methyl (triphenylphosphoranylidene)acetate | 54.93 mmol, 18.37 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)(C1=CC=CC=C1)=CC(=O)OC | C21H19O2P
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | Methyl 3-methylcinnamate | CC=1C=C(C=CC(=O)OC)C=CC1 | C11H12O2
